US05418237
A mixture of 30.6 g of 3-[4-(4-m-methoxyphenylpiperazino)butyl]-5-cyanoindole, 27.1 g of NaOH, 520 ml of water and 420 ml of diethylene glycol monoethyl ether is stirred for 3 hours at a bath temperature of 140°. It is cooled and worked up in a conventional manner, and 3-[4-(4-m-methoxyphenylpiperazino)butyl]indole-5-carboxamide is obtained.

reactant | 3-[4-(4-m-methoxyphenylpiperazino)butyl]-5-cyanoindole | 30.6 g | COC=1C=C(C=CC1)N1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C#N | C24H28N4O
reactant | NaOH | 27.1 g | [OH-].[Na+]
reactant | diethylene glycol monoethyl ether | 420 ml | C(C)OCCOCCO | C6H14O3
solvent | water | 520 ml | O | H2O
product | 3-[4-(4-m-methoxyphenylpiperazino)butyl]indole-5-carboxamide | COC=1C=C(C=CC1)N1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C(=O)N | C24H30N4O2
